US08685980B2
Following Buchwald Procedure A, 3-[4-(6-amino-pyridin-3-yl)-piperazin-1-yl]-propionitrile (173 mg, 0.751 mmol) and 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (200 mg, 0.683 mmol) gave 2-{5-[4-(2-cyano-ethyl)-piperazin-1-yl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (34 mg, 10%) [following purification by preparative LCMS]. MS (ESI) m/z 488.2 (M+H)+ (method B).

reactant | 3-[4-(6-amino-pyridin-3-yl)-piperazin-1-yl]-propionitrile | 0.751 mmol, 173 mg | NC1=CC=C(C=N1)N1CCN(CC1)CCC#N | C12H17N5
reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.683 mmol, 200 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | 2-{5-[4-(2-cyano-ethyl)-piperazin-1-yl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 34 mg, 10% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)CCC#N)N1C1CCCC1)C | C26H33N9O
